US08008298B2
2,2-Dimethyl-1-{2-[3-(3-methyl-piperazin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-propan-1-one was prepared starting from 1-[2-(3-iodo-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one and 2-methyl-piperazine-1-carboxylic acid tert-butyl ester following general procedures as described in these Examples. M+H=378.

reactant | 1-[2-(3-iodo-phenyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-2,2-dimethyl-propan-1-one | IC=1C=C(C=CC1)C=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C23H30IN3O2Si
reactant | 2-methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CNCC1)C | C10H20N2O2
product | 2,2-Dimethyl-1-{2-[3-(3-methyl-piperazin-1-yl)-phenyl]-5H-pyrrolo[2,3-b]pyrazin-7-yl}-propan-1-one | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)N2CC(NCC2)C)(C)C | C22H27N5O
